US07700594B2
3-Cyclobutyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)imidazo[1,5-a]pyrazin-8-amine
3-Cyclobutyl-1-[1-(2-trimethylsilylethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]imidazo[1,5-a]pyrazin-8-amine (35 mg, 0.08 mmol) was stirred with concentrated HCl for 15 min. The mixture was then concentrated in vacuo and purified via mass directed preparative HPLC to afford the title compound. 1H NMR (400 MHz DMSO-d6) δ 1.92-2.00 (m, 1H), 2.07-2.14 (m, 1H), 2.43-2.47 (m, 4H), 3.93-4.01 (m, 1H), 6.35-6.49 (bs, 2H), 6.64-6.70 (m, 1H), 7.03-7.10 (m, 2H), 7.39-7.49 (m, 1H), 7.95-8.00 (m, 1H), 8.18-8.23 (m, 1H), 11.91 (bs, 1H). MS (ES+): m/z: 305.17 [MH+].

reactant | 3-Cyclobutyl-1-[1-(2-trimethylsilylethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]imidazo[1,5-a]pyrazin-8-amine | 0.08 mmol, 35 mg | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=1C(=NC=CC1)N2COCC[Si](C)(C)C | C23H30N6OSi
reactant | HCl | Cl | ClH
product | 3-Cyclobutyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)imidazo[1,5-a]pyrazin-8-amine | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=1C(=NC=CC1)N2 | C17H16N6
